US05698553
5-(3-Chloro-1-oxopropyl)-6-chloro-2,3-dihydrobenzimidazol-2-one
44.68 g of aluminium chloride (0.335 mol) are initially introduced into a reaction flask. 4.9 ml of DMF are slowly added dropwise with stirring, the temperature rising to approximately 56° C. 6.9 ml of 3-chloropropionyl chloride (0.072 mol) are added to this mixture. 8.07 g of 6-chloro-2,3-dihydrobenzimidazol-2-one (0.048 mol) are then slowly added in portions and the mixture is stirred at 80° C. for one hour. After completion of the reaction the reaction mixture obtained is stirred into 400 g of ice, and the precipitate is filtered off with suction and washed with plenty of water and small amounts of acetone. The reaction leads to a slightly more non-polar product which can be separated by thin-layer chromatography using an eluent consisting of-chloroform and methanol in the mixture ratio 9:1. Yield: 9.72 g of 5-(3-chloro-1-oxopropyl)-6-chloro-2,3-dihydrobenzimidazol-2-one (78.2% of theory); m.p.: 201°-204° C.

reactant | aluminium chloride | 0.335 mol, 44.68 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-chloropropionyl chloride | 0.072 mol, 6.9 ml | ClCCC(=O)Cl | C3H4Cl2O
reactant | 6-chloro-2,3-dihydrobenzimidazol-2-one | 0.048 mol, 8.07 g | ClC=1C=CC2=C(NC(N2)=O)C1 | C7H5ClN2O
solvent | DMF | 4.9 ml | CN(C)C=O | C3H7NO
product | 5-(3-Chloro-1-oxopropyl)-6-chloro-2,3-dihydrobenzimidazol-2-one | ClCCC(=O)C1=CC2=C(NC(N2)=O)C=C1Cl | C10H8Cl2N2O2
